US05935966
ETHYL 4-[N-(1'-AMINOCITRACONAMIDO)]-2-PHENYLPYRIDINE-5-CARBOXYLATE
The title compound was prepared by (a) reaction of diethylethoxymethylenemalonate (31 g, 144 mmol) with benzamidine (22 g, 144 mmol) under basic conditions to afford ethyl 2-phenyl-4-hydroxypyrimidine-5-carboxylate in 64% yield in analogy to Example 15, (b) reaction of ethyl 2-phenyl-4-hydroxypyrimidine-5-carboxylate (1.5 g, 6 mmol) and POCl3 (9.4 g, 62 mmol) to afford 81% of ethyl 2-phenyl-4-chloropyrimidine-5-carboxylate in analogy to Example 7, (c) reaction of ethyl 2-phenyl-4-chloropyrimidine-5-carboxylate (12 g, 46 mmol) with hydrazine (4.4 g, 137 mmol) to afford 99% of ethyl 4-hydrazino-2-phenylpyrimidine-5-carboxylate in analogy to Example 18, (d) reaction of ethyl 4-hydrazino-2-phenylpyrimidine-5-carboxylate (12 g, 46 mmol) with citraconic anhydride (10 g, 92 mmol) to afford 75% (12 g) of the title compound (m.p. 155-156° C.) in analogy to Example 21.

reactant | diethylethoxymethylenemalonate | 144 mmol, 31 g | C(C)OC(C(C(=O)OCC)=COCC)=O | C10H16O5
reactant | benzamidine | 144 mmol, 22 g | C(C1=CC=CC=C1)(=N)N | C7H8N2
product | ethyl 2-phenyl-4-hydroxypyrimidine-5-carboxylate | 64% yield | C1(=CC=CC=C1)C1=NC=C(C(=N1)O)C(=O)OCC | C13H12N2O3
